US07034023B2
Step 6: Preparation of 7-(4-methoxy-2-methylphenyl)-2,6-dimethyl-N-[(1S)-1-methylpropyl]pyrrolo[1,2-b]pyridazin-4-amine
A mixture of 4-bromo-7-(4-methoxy-2-methylphenyl)-2,6-dimethylpyrrolo[1,2-b]pyridazine (0.137 g, 0.397 mmol), (S)-(+)-sec-butylamine (0.08 mL, 0.794 mmol), xantphos (0.025 g, 0.04 mmol), Cs2CO3 (0.18 g, 0.55 mmol) and Pd2(dba)3 (0.018 g, 0.02 mmol) in dioxane (4.0 mL) was refluxed for 17 h. Extra (S)-(+)-sec-butylamine (0.08 mL, 0.794 mmol), xantphos (0.025 g, 0.04 mmol) and Pd2(dba)3 (0.018 g, 0.02 mmol) were added to the reaction mixture and refluxed for additional 4 h. After cooling to room temperature, the mixture was filtered through a pad of celite. The filtrate was concentrated in vacuo to dryness, the residue was subjected to column chromatography (silica gel, 1/10 EtOAc/heptane) to give 0.024 g (18%) of light yellow oil as the title compound. 1H NMR (300 MHz, CDCl3) δ 7.23 (d, J=11 Hz, 1H), 6.89 (d, J=4 Hz, 1H), 6.83 (dd, J=4, 11 Hz, 1H), 6.29 (br s, 1H), 5.54 (s, 1H), 3.87 (s, 3H), 3.64–3.56 (m, 1H), 2.32 (s, 3H), 2.16 (s, 3H), 2.11 (s, 3H), 1.77–1.57 (m, 2H), 1.32–1.28 (m, 3H), 1.06–0.99 (m, 3H); MS m/z 338.4 (M++H).

reactant | 4-bromo-7-(4-methoxy-2-methylphenyl)-2,6-dimethylpyrrolo[1,2-b]pyridazine | 0.397 mmol, 0.137 g | BrC=1C=2N(N=C(C1)C)C(=C(C2)C)C2=C(C=C(C=C2)OC)C | C17H17BrN2O
reactant | (S)-(+)-sec-butylamine | 0.794 mmol, 0.08 mL | [C@H](C)(CC)N | C4H11N
reactant | xantphos | 0.04 mmol, 0.025 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | Cs2CO3 | 0.55 mmol, 0.18 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | (S)-(+)-sec-butylamine | 0.794 mmol, 0.08 mL | [C@H](C)(CC)N | C4H11N
reactant | xantphos | 0.04 mmol, 0.025 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
solvent | dioxane | 4.0 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.02 mmol, 0.018 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | Pd2(dba)3 | 0.02 mmol, 0.018 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 7-(4-methoxy-2-methylphenyl)-2,6-dimethyl-N-[(1S)-1-methylpropyl]pyrrolo[1,2-b]pyridazin-4-amine | COC1=CC(=C(C=C1)C1=C(C=C2N1N=C(C=C2N[C@H](CC)C)C)C)C | C21H27N3O
